US04159375
A 37.2 g. portion of 6-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazin-3(2H)-one in 250 ml. of chloroform is refluxed overnight and then cooled. A 250 ml. portion of phosphorus oxychloride and 1.7 g. of N,N-dimethylformamide are added and the mixture is refluxed for 4.5 hours and then concentrated to a brown oil. This oil is dissolved in methylene chloride and poured into ice-water. The mixture is filtered through silica gel giving crystals which are recrystallized from hexane, giving 3-chloro-6-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine as reddish plates.

reactant | 6-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazin-3(2H)-one | FC(C1=CC(=CC=C1)C=1C=NC(NN1)=O)(F)F | C10H6F3N3O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-chloro-6-(α,α,α-trifluoro-m-tolyl)-1,2,4-triazine | ClC=1N=NC(=CN1)C=1C=C(C=CC1)C(F)(F)F | C10H5ClF3N3
